Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Breakthrough seizure activity
 
Major Surgical or Invasive Procedure:
Cerebral angiogram

 
History of Present Illness:
Mr. ___ is a ___ old right-handed man with a past medical
history of IV drug use, chronic back ___ c/b Gabapentin abuse,
remote febrile seizure who presents with two events concerning
for seizure. 

Patient reports waking up with a headache yesterday morning. It
is described as bifrontal pressure, with associated nausea and
phonophobia, initially mild and then progressively worsened over
the course of the day. He took Tylenol with some relief. This 
was
in the setting of a few days of feeling "off," with poor
appetite, nausea and chills but no fever. 

Around 1am, he and his girlfriend were lying on the couch and 
had
just fallen asleep. His girlfriend awoke to a grunting noise. 
She
looked over and saw the patient stiff, with eyelid fluttering,
grinding his teeth and completely rigid for one minute without
incontinence. He was sleepy and quiet afterwards. EMS arrived 5
minutes later and the patient became combative and agitated,
confused about why people were in the house. He returned to
normal about 30 minutes later after arrival to the OSH ED. 

At ___, he had basic labs checked, including BG
122, wbc 10.4, Cr 1.3. He had a second seizure, lasting about 1
minute, which resolved prior to Ativan administration. He was
then loaded with Dilantin 15mg/kg around 2:30am. He was
post-ictal for about 10 mins. He had a head CT which showed a
hyperdense focus in the left parietal lobe concerning for venous
anomaly. He was therefore transferred for further management. 

On arrival, he was evaluated by neurosurgery who recommended CTA
and MRI. Neurology was consulted for management of his seizures. 


Of note, there are documentations of patient taking Wellbutrin
recently, but he has not taken this medication in ___ months.
Additionally, he reports abusing Gabapentin due to significant
back ___. He will buy it on the street and take approximately 
10
pills per day of Gabapentin 800mg. On the day of the seizure, he
thinks he took slightly less Gabapentin than usual, though he is
not sure how much. He denies any other drug use. He has not used
heroin in over ___ years. 

Seizure risk factors:
-Febrile seizure: only 1 when he was ___ year old. He was placed 
on
Phenobarbital x ___ year. No other seizure medications required 
and
he has never had another seizure. 
-Head trauma: reports multiple fights with blows to the head and
probable concussions in the past
-No meningitis or encephalitis
-Reports a "bleed" in his brain found on imaging approximately 
___
years ago. Presented to doctor for episodes of dizziness and had
head imaging which apparently initially looked like a tumor, 
then
told it was a "bleed." There is a head CT in our system from 
___
showing  a left parietal hemorrhage with mild surrounding edema
in the same location.  

 
Past Medical History:
Back ___ secondary to lumbar disc disease s/p L5 surgery
(unclear what was done)
Substance abuse (Gabapentin as outlined above)
History of IV drug use, quit ___ years ago
Depression
ADHD
Febrile sz
s/p appendectomy
 
Social History:
___
Family History:
No seizures. 
 
Physical Exam:
ADMISSION EXAM:
General: Sleepy but arousable
HEENT: NC/AT, no scleral icterus noted, dry MM, no lesions noted
in oropharynx
Neck: Supple. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Back: ___ on palpation of thoracic paraspinals R > L, mild
midline ___
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x to self, ___
___ Able to name his girlfriend in the room.
Inattentive, unable to ___ backwards. Language is fluent with
intact repetition and comprehension. Normal prosody. There were
no paraphasic errors. Pt was able to name both high and low
frequency objects.  Able to read without difficulty. Speech was
not dysarthric. Able to follow both midline and appendicular
commands. Pt was able to register 3 objects and recall ___ at 5
minutes. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5    ___   ___    5   5     5      5   
R  5    ___   ___    5   5     5      5   

-Sensory: No deficits to light touch, pinprick, proprioception
throughout.  

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: Deferred due to ___

DISCHARGE EXAM:
Difficulty w/ MOYB, otherwise nonfocal
 
Pertinent Results:
___ 05:00AM BLOOD WBC-6.8 RBC-5.03 Hgb-15.4 Hct-45.7 MCV-91 
MCH-30.6 MCHC-33.7 RDW-11.8 RDWSD-39.3 Plt ___
___ 03:51AM BLOOD WBC-20.7* RBC-4.78 Hgb-15.2 Hct-42.9 
MCV-90 MCH-31.8 MCHC-35.4 RDW-11.9 RDWSD-39.0 Plt ___
___ 05:00AM BLOOD ___ PTT-27.8 ___
___ 05:00AM BLOOD Glucose-90 UreaN-15 Creat-0.8 Na-139 
K-4.1 Cl-100 HCO3-27 AnGap-16
___ 03:51AM BLOOD Glucose-136* UreaN-11 Creat-1.0 Na-137 
K-3.7 Cl-102 HCO3-19* AnGap-20
___ 03:51AM BLOOD ALT-26 AST-33 AlkPhos-25* TotBili-0.2
___ 05:00AM BLOOD Calcium-9.5 Phos-4.7* Mg-2.0
___ 08:10AM BLOOD Calcium-9.3 Phos-3.3 Mg-2.3
___ 03:51AM BLOOD ASA-NEG Acetmnp-NEG Bnzodzp-NEG 
Barbitr-NEG Tricycl-NEG

___ H&N
1. Curvilinear hyperdense lesion within the left parietal lobe, 
with extension to the left parafalcine region is likely 
secondary to calcification, which may be secondary to a 
partially thrombosed AVM, cavernous malformation, or 
sequelae of prior hemorrhage.  No definite acute intracranial 
hemorrhage or acute large territorial infarction. 
2. Unremarkable CTA of the head without evidence of stenosis or 
aneurysm.  No evidence of vascular malformation. 

___ Head w/ and w/o contrast
1. THe left parietal lesions is most likely an   occult vascular 
malformation.

___ Angiogram
 5 vessels diagnostic cerebral angiogram did not demonstrate any 
vascular 
abnormalities. 

 
Brief Hospital Course:
Mr. ___ was hospitalized at ___ due to two tonic events 
concerning for seizure activity. He underwent imaging including 
CTA Head and Neck and MRI Brain which were concerning for R 
parietal vascular malformation. He was evaluated on EEG and 
started on Keppra which was uptitrated due to persistent events. 
Due to hx of Gabapentin abuse, he was started on gabapentin 
regimen to prevent withdrawal. He underwent cerebral angiogram 
by NSGY on ___ which did not show a vascular abnormality. Per 
Neurosurgery, likely that pt does not have vascular abnormality 
but rather has abnormalities seen on imaging related to previous 
TBI in ___. Due to appearing clinically stable, patient was 
discharged from the hospital.

*******************
Transition Issues:
-Pt will need to follow up with new PCP and ___
-Pt will need to follow up in First Time Seizure Clinic
-Pt will need to continue taking Keppra 1500mg BID
-Pt will need to take Gabapentin taper starting at 800mg TID and 
tapering down by 100mg every week
-Pt will need to obtain MRI in 6 months to ensure that vascular 
anomaly seen on previous imaging is not apparent
 
Medications on Admission:
Gabapentin 800mg TID (often up to 10 pills per day)
Prozac
Adderall ___ pills per day
 
Discharge Medications:
1.  Gabapentin 800 mg PO TID 
2.  LevETIRAcetam 1500 mg PO BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Breakthrough seizure activity

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were hospitalized at ___ and treated by Neurology due to 
events concerning for seizure activity. You underwent 
neuroimaging of the brain as well as EEG which suggested occult 
vascular anomaly in brain. However, cerebral angiogram did not 
reveal this abnormality. Due to appearing stable on Keppra 
started on admission with no continued seizures, you will be 
discharged from the hospital.

Please continue taking Keppra 1500mg twice daily. Please 
continue to taper down on Gabapentin as follows:
Gabapentin 800mg (1 800mg tablet) three times daily x 1 week, 
then
Gabapentin 700mg (1 600mg tablet+1 100mg tablet) three times 
daily x 1 week, then 
Gabapentin 600mg (1 600mg tablet) three times daily x 1 week, 
then 
Gabapentin 500mg (1 400mg tablet+1 100mg tablet) three times 
daily x 1 week, then 
Gabapentin 400mg (1 400mg tablet) three times daily x 1 week, 
then 
Gabapentin 300mg (3 x 100mg tablets) three times daily x 1 week, 
then 
Gabapentin 200mg (2 x 100mg tablets) three times daily x 1 week, 
then 
Gabapentin 100mg (1 x 100mg tablet) three times daily x 1 week, 
then stop

Please follow up in First Time Seizure Clinic in near future (to 
be contacted with appointment information). Please plan for 
follow up MRI Brain in 6 months to determine if intracerebral 
vascular anomaly has resolved. Please follow up with new PCP and 
___ based on information provided by social worker.

It was pleasure taking care of you,

___ Neurology Team
 
Followup Instructions:
___